US07071175B1
A solution of KOH (0.44 g, 6.72 mmol, 85%) in ethanol (5 ml) was added to a solution of 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid diethyl ester (2.45 g, 6.11 mmol) in ethanol (25 ml) and methylene chloride (10 ml) at 0° C. The mixture was stirred for 18 h at room temperature. The solvent was evaporated in vacuo and the residue dissolved in water. The aqueous layer was washed with ether, acidified to pH 4 by 1 M HCl and extracted with methylene chloride and ethyl acetate. The combined organic layers were washed with water and brine and dried. Filtration and concentration under reduced pressure gave the crude product which was purified by flash chromatography (10% MeOH in CH2Cl2) giving 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid monoethyl ester (1.41 g, 62%) as a yellow-white glassy foam.

reactant | KOH | 6.72 mmol, 0.44 g | [OH-].[K+]
reactant | 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid diethyl ester | 6.11 mmol, 2.45 g | C(C)OC(C(C(=O)OCC)CC=1C=NC(=C(C1)Cl)NC(=O)OC(C)(C)C)=O | C18H25ClN2O6
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid monoethyl ester | 1.41 g, 62% | C(C)OC(C(C(=O)O)CC=1C=NC(=C(C1)Cl)NC(=O)OC(C)(C)C)=O | C16H21ClN2O6
